US04407798
A mixture of dimethyl ethoxyiminomalonate (57.4 g) and conc. ammonium hydroxide (50 ml) in methanol (150 ml) was stirred for 2.5 hours at room temperature. The mixture was adjusted to pH 4 with conc. hydrochloric acid under cooling and concentrated to 70 ml under reduced pressure. The aqueous solution was stood in a refrigerator for one hour and the resulting precipitates were collected by filtration, washed with cold water and dried to give methyl 2-carbamoyl-2-ethoxyiminoacetate (syn isomer) (31 g), mp 68° to 71° C.

reactant | dimethyl ethoxyiminomalonate | 57.4 g | C(C)ON=C(C(=O)OC)C(=O)OC | C7H11NO5
reactant | ammonium hydroxide | 50 ml | [OH-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
product | methyl 2-carbamoyl-2-ethoxyiminoacetate | 31 g | C(N)(=O)C(C(=O)OC)=NOCC | C6H10N2O4
